US08614209B2
2-{4-[4-(4,4-Dimethyl-azepane-1-carbonyl)-thiophen-2-yl]-pyrazol-1-yl}-N-methyl-acetamide (EE-23)
(4,4-Dimethyl-azepan-1-yl)-[5-(1H-pyrazol-4-yl)-thiophen-3-yl]-methanone (0.052 g, 0.14 mmol) was dissolved in THF (1 mL) and DIPEA (32 μL, 0.19 mmol) and methylamine (2 M in THF, 94 μL, 0.19 mmol) were added followed by HATU (0.066 g, 0.17 mmol). The reaction mixture was stirred at room temperature for 2 hours and then diluted with water and extracted with DCM (×3). The organic solution was dried over sodium sulfate, filtered and the solvent evaporated. The residue was purified by HPLC, eluting with 10%-98% acetonitrile in water (0.1% formic acid) over 20 minutes. The fractions containing the desired product were freeze-dried to give the title compound as a white solid (0.029 g). LCMS m/z 375.29 [M+H]+ R.T.=8.49 min (Analytical Method 2).

reactant | (4,4-Dimethyl-azepan-1-yl)-[5-(1H-pyrazol-4-yl)-thiophen-3-yl]-methanone | 0.14 mmol, 0.052 g | CC1(CCN(CCC1)C(=O)C1=CSC(=C1)C=1C=NNC1)C | C16H21N3OS
reactant | DIPEA | 0.19 mmol, 32 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methylamine | 0.19 mmol, 2 M, 94 μL | CN | CH5N
reactant | HATU | 0.17 mmol, 0.066 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-{4-[4-(4,4-Dimethyl-azepane-1-carbonyl)-thiophen-2-yl]-pyrazol-1-yl}-N-methyl-acetamide | 0.029 g | CC1(CCN(CCC1)C(=O)C=1C=C(SC1)C=1C=NN(C1)CC(=O)NC)C | C19H26N4O2S
